US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]-benzoate.dihydrochloride:
45 Milliliters of 20% hydrous pyridine was added to 2.85 g of 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoic acid.hydrochloride, 3 g of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 2.65 g of N,N'-dicyclohexylcarbodiimide (hereinafter referred to as "DCC") and 131 mg of 4-dimethylaminopyridine (hereinafter referred to as "DMAP"), followed by stirring for 2 hours under cooling with ice and 3 days under cooling with water. The precipitate was filtered and the filtrate was concentrated under reduced pressure. To the residue was added 15 ml of N,N-dimethylformamide (hereinafter referred to as "DMF"), and a small amount of the insoluble matter was filtered off. The filtrate was added dropwise to 500 ml of a mixed liquid of ether and acetone (10:1) and this was stirred for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain a crude product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoic acid.hydrochloride | 2.85 g | Cl.N1C(=NCC1)NC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 3 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | N,N'-dicyclohexylcarbodiimide | 2.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 131 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]-benzoate.dihydrochloride | Cl.Cl.N1C(=NCC1)NC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | InChI=1S/C23H22N6O3.2ClH/c24-20(30)12-18-17-7-3-15(21(25)26)11-14(17)4-8-19(18)32-22(31)13-1-5-16(6-2-13)29-23-27-9-10-28-23;;/h1-8,11H,9-10,12H2,(H2,24,30)(H3,25,26)(H2,27,28,29);2*1H
